US05866560
A solution of 16.2 g of 7α-(5-bromopentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one in 162 ml of tetrahydrofuran as well as 90 ml of ethanol and 36 ml of water are mixed in portions at 0° C. with 4.7 g of sodium borohydride and stirred for 2 hours at 0° C. Then, it is added to water, extracted four times with ethyl acetate, washed with water and common salt solution, dried on sodium sulfate and concentrated by evaporation in a vacuum. 17.1 g of crude product is obtained. After chromatography on silica gel with hexane/ethyl acetate, 15.6 g of pure 7α-(5-bromopentyl)-11β-fluoro-estra-1,3,5(10)-triene-3,17β-diol is obtained.

reactant | 7α-(5-bromopentyl)-11β-fluoro-3-hydroxy-estra-1,3,5(10)-trien-17-one | 16.2 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)=O | C23H30BrFO2
reactant | ethanol | 90 ml | C(C)O | C2H6O
reactant | water | 36 ml | O | H2O
reactant | sodium borohydride | 4.7 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 162 ml | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 7α-(5-bromopentyl)-11β-fluoro-estra-1,3,5(10)-triene-3,17β-diol | 15.6 g | BrCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)C[C@@H]([C@@H]2C=2C=CC(=CC2C1)O)F)O | C23H32BrFO2
